US09216981B2
The 2,6-difluoro-N1-(3-(9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)pyridin-2-yl)benzene-1,3-diamine (50 mg, 0.120 mmol) prepared at Step 9 was added and dissolved into dichloromethane solvent. 5-methylfuran-2-sulfonyl chloride (24 mg, 0.130 mmol) and pyridine (11 uL, 0.130 mmol) were added into the reaction solution and stirred at 50° C. for 2 hours. After the reaction, the reactant was washed with 1N aqueous hydrochloric acid solution and salt water. After extraction with dichloromethane, the organic layer was dried with sulfuric anhydride magnesium and vacuum concentrated, and then refined by means of column chromatography, so that 58 mg of the target compound, N-(2,4-difluoro-3-(3-(9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)pyridin-2-ylamino)phenyl)-5-methylfuran-2-sulfonamide (percentage yield: 85%), was obtained.

reactant | 2,6-difluoro-N1-(3-(9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)pyridin-2-yl)benzene-1,3-diamine | 0.120 mmol, 50 mg | FC1=C(C(=CC=C1N)F)NC1=NC=CC=C1C1=C2N=CN(C2=NC=N1)C1OCCCC1 | C21H19F2N7O
reactant | 5-methylfuran-2-sulfonyl chloride | 0.130 mmol, 24 mg | CC1=CC=C(O1)S(=O)(=O)Cl | C5H5ClO3S
reactant | pyridine | 0.130 mmol, 11 uL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2,4-difluoro-3-(3-(9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)pyridin-2-ylamino)phenyl)-5-methylfuran-2-sulfonamide | yield: 85% | FC1=C(C=CC(=C1NC1=NC=CC=C1C1=C2N=CN(C2=NC=N1)C1OCCCC1)F)NS(=O)(=O)C=1OC(=CC1)C | C26H23F2N7O4S
